US06992094B1
(a) 6-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinyl chloride
2 g (5 mmol) of 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid, 20 ml of toluene, 100 μl of DMF and 450 μl of thionyl chloride are introduced into a round-bottomed flask. The reaction medium is refluxed for one hour and evaporated. 100% of the expected acid chloride are collected, this product being used for the rest of the synthesis without further purification.

reactant | 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid | 5 mmol, 2 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)O)C=C1 | C21H25NO2Se
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 450 μl | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 100 μl | CN(C)C=O | C3H7NO
product | 6-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinyl chloride | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(CCl)C=C1 | C21H26ClNSe
